US07282588B2
N′-{4-[1-ethyl-4-(1-(phenylsulfonyl)-2-{4-[2-(1-pyrrolidinyl)ethyl]phenyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]phenyl}-N,N-dimethylurea
Following the procedure described for Intermediate 32 using 4-bromo-1-(phenylsulfonyl)-2-{4-[2-(1-pyrrolidinyl)ethyl]phenyl}-1H-pyrrolo[2,3-b]pyridine and then following the procedure described for Intermediate 100 using N′-[4-(4-bromo-1-ethyl-1H-pyrazol-3-yl)phenyl]-N,N-dimethylurea and stirring for 4.5 hours provided the title compound. ESMS [M+H]+: 688.6.

reactant | 4-bromo-1-(phenylsulfonyl)-2-{4-[2-(1-pyrrolidinyl)ethyl]phenyl}-1H-pyrrolo[2,3-b]pyridine | BrC1=C2C(=NC=C1)N(C(=C2)C2=CC=C(C=C2)CCN2CCCC2)S(=O)(=O)C2=CC=CC=C2 | C25H24BrN3O2S
reactant | N′-[4-(4-bromo-1-ethyl-1H-pyrazol-3-yl)phenyl]-N,N-dimethylurea | BrC=1C(=NN(C1)CC)C1=CC=C(C=C1)NC(N(C)C)=O | C14H17BrN4O
product | N′-{4-[1-ethyl-4-(1-(phenylsulfonyl)-2-{4-[2-(1-pyrrolidinyl)ethyl]phenyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]phenyl}-N,N-dimethylurea | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)N(C(=C2)C2=CC=C(C=C2)CCN2CCCC2)S(=O)(=O)C2=CC=CC=C2)C2=CC=C(C=C2)NC(N(C)C)=O | C39H41N7O3S
